US06103448
A solution of 6N hydrochloric acid (1.5 ml) in dioxane (50 ml) was added to bis(trimethylsilyl)ethyltrimethylsilylether at room temperature and the solution was neutralized by addition of aqueous sodium bicarbonate solution. A process series of extraction with ether, solvent removal and vacuum distillation gave 1,1-bis(trimethylsilyl)ethanol: Yield 87%, b.p. 127° C./32 mmHg.

reactant | hydrochloric acid | 6N, 1.5 ml | Cl | ClH
reactant | bis(trimethylsilyl)ethyltrimethylsilylether | C[Si](C)(C)C(CC[Si](C)(C)O[Si](C)(C)CCC([Si](C)(C)C)[Si](C)(C)C)[Si](C)(C)C | C22H58OSi6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 1,1-bis(trimethylsilyl)ethanol | Yield 87% | C[Si](C(C)(O)[Si](C)(C)C)(C)C | C8H22OSi2
